US04983623
(a) Benzyl N-(4-phenylbutyryl)-(2S,3aS,6aS)-octahydrocyclopenta[b]pyrrole-2-carboxylate
4.92 g (30 mmol) of 4-phenylbutyric acid are dissolved together with 8.4 ml of triethylamine in 200 ml of dry tetrahydrofuran. While cooling in ice, 2.9 ml of ethyl chloroformate are added dropwise. After stirring at 0° C. for 1 hour, 7.4 g of benzyl (2S,3aS,6aS)-octahydrocyclopenta[b]pyrrole-2-carboxylate hydrochloride are added, and the mixture is stirred at room temperature for a further 12 hours. Filtration is followed by concentration, and the residue is taken up in 3% NaHCO3 /ethyl acetate. The organic phase is separated off and washed with 10% strength citric acid, 3% strength NaHCO3 solution and saturated brine, once each, dried with MgSO4 and concentrated. Chromatography on silica gel with ethyl acetate/cyclohexane (1:2) as mobile phase results in 9.05 g of the title compound as a colorless oil.

reactant | 4-phenylbutyric acid | 30 mmol, 4.92 g | C1(=CC=CC=C1)CCCC(=O)O | C10H12O2
reactant | triethylamine | 8.4 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 2.9 ml | ClC(=O)OCC | C3H5ClO2
reactant | benzyl (2S,3aS,6aS)-octahydrocyclopenta[b]pyrrole-2-carboxylate hydrochloride | 7.4 g | Cl.N1[C@@H]2[C@H](C[C@H]1C(=O)OCC1=CC=CC=C1)CCC2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | Benzyl N-(4-phenylbutyryl)-(2S,3aS,6aS)-octahydrocyclopenta[b]pyrrole-2-carboxylate | 9.05 g | C1(=CC=CC=C1)CCCC(=O)N1[C@@H]2[C@H](C[C@H]1C(=O)OCC1=CC=CC=C1)CCC2 | C25H29NO3
